US07262198B2
To a solution of N-(2-piperazinylethyl)[4-(trifluoromethyl)phenyl]carboxamide (0.2 g, 0.38 mmol) in ethanol was added diisopropyl ethylamine (0.25 ml, 1.5 mmol) and 5-[((2R)oxiran-2-yl)methoxy]-2-methylbenzothiazole (0.09 g, 0.42 mmol). The reaction was heated to 85 degrees for four hours. The mixture was then concentrated in vacuo and purified using preparative thin layer chromatography (10:1 DCM:MeOH) to yield N-(2-{4-[(2R)-2-hydroxy-3-(2-methylbenzothiazol-5-yloxy)propyl]piperazinyl}ethyl)[4-(trifluoromethyl)phenyl]carboxamide (M+1=523.0).

reactant | N-(2-piperazinylethyl)[4-(trifluoromethyl)phenyl]carboxamide | 0.38 mmol, 0.2 g | N1(CCNCC1)CCNC(=O)C1=CC=C(C=C1)C(F)(F)F | C14H18F3N3O
reactant | diisopropyl ethylamine | 1.5 mmol, 0.25 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 5-[((2R)oxiran-2-yl)methoxy]-2-methylbenzothiazole | 0.42 mmol, 0.09 g | O1[C@H](C1)COC=1C=CC2=C(N=C(S2)C)C1 | C11H11NO2S
solvent | ethanol | C(C)O | C2H6O
product | N-(2-{4-[(2R)-2-hydroxy-3-(2-methylbenzothiazol-5-yloxy)propyl]piperazinyl}ethyl)[4-(trifluoromethyl)phenyl]carboxamide | O[C@H](CN1CCN(CC1)CCNC(=O)C1=CC=C(C=C1)C(F)(F)F)COC=1C=CC2=C(N=C(S2)C)C1 | C25H29F3N4O3S
